US05710314
A mixture of 7.0 g of 2-(2-bromomethylphenyl)-2-difluoromethoxyimino-acetonitrile, 5.4 g of 2,5-dimethylphenol, 16.1 g of pulverized potash and 0.38 g of 18-crown-6 in 35 ml of acetonitrile is stirred at room temperature for 24 hours. For working up, water is added and exhaustive extraction with ethyl acetate is carried out. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated by evaporation. Chromatography on silica gel with hexane/ethyl acetate (9:1) yields 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-difluoromethoxyiminoacetonitrile in the form of a sticky crystalline mass which, when treated with hexane, yields a fine crystal powder of m.p. 104°-108° C.

reactant | 2-(2-bromomethylphenyl)-2-difluoromethoxyimino-acetonitrile | 7.0 g | BrCC1=C(C=CC=C1)C(C#N)=NOC(F)F | C10H7BrF2N2O
reactant | 2,5-dimethylphenol | 5.4 g | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | potash | 16.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 0.38 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-difluoromethoxyiminoacetonitrile | CC1=C(OCC2=C(C=CC=C2)C(C#N)=NOC(F)F)C=C(C=C1)C | C18H16F2N2O2
